US05246929
To a suspension of 2-aminothiophenol (12.6 g) and sodium acetate (23.6 g) in ethanol (150 ml) is added methyl α-bromo-4-fluorophenylacetate (23.6 g), and the mixture is stirred at room temperature overnight. After the solvent is distilled off, water is added to the residue. The resulting precipitate is separated by filtration, washed, dried, and then recrystallized from tetrahydrofuran-n-hexane to give 2-(4-fluorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine (21.7 g) as crystals. M.p. 216°-219° C.

reactant | 2-aminothiophenol | 12.6 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium acetate | 23.6 g | C(C)(=O)[O-].[Na+]
reactant | methyl α-bromo-4-fluorophenylacetate | 23.6 g | BrC(C(=O)OC)C1=CC=C(C=C1)F | C9H8BrFO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-3-oxo-3,4-dihydro-2H-1,4-benzothiazine | 21.7 g | FC1=CC=C(C=C1)C1SC2=C(NC1=O)C=CC=C2 | C14H10FNOS
